US04871872
To a stirred solution of 1,2-bis(4-fluorophenyl)-2-propylamine (8.47 g, 0.034 mol) in 200 ml of chloroform under nitrogen, was added N-CBZ-glycylglycine (9.13 g, 0.034 mol) and then a solution of dicyclohexylcarbodiimide (7.43 g, 0.036 mol) in 100 ml of chloroform and the mixture stirred for 72 hours. The precipitated solid was removed by filtration and the solvent evaporated. The residue was treated with ethylacetate (125 ml), filtered, an additional 250 ml of ethylacetate added and then washed with cold 1% HCl (150 ml), brine (200 ml), dried and the solvent evaporated. The residue was dissolved in 400 ml of methanol and 35 ml of 10% HCl and hydrogenated at 40 psi in a Parr apparatus over 3.0 g of 5% Pd/c catalyst for 3 hours. The catalyst was removed by filtration, solvent evaporated and the residue dissolved in water (300 ml) and chloroform (300 ml), basified to pH 11 with 50% NaOH, shaken and separated. The aqueous phase was extracted with chloroform (3×150 ml), and the combined organic phases were washed with water (2×200 ml), dried, and evaporated to a pale yellow oil. This oil was crystallized from cyclohexane (150 ml) and ethanol (5 ml); the solid obtained was recrystallized from hexane (150 ml) and ethanol (10 ml), and vacuum dried at 83° C. for 96 hours to give 3.64 g of 2-glycinamido-N-[1,2-bis(4-fluorophenyl)-1-methylethyl]acetamide, mp. 139°-140° C.

reactant | 1,2-bis(4-fluorophenyl)-2-propylamine | 0.034 mol, 8.47 g | FC1=CC=C(C=C1)CC(C)(C1=CC=C(C=C1)F)N | C15H15F2N
reactant | N-CBZ-glycylglycine | 0.034 mol, 9.13 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)NCC(=O)O | C12H14N2O5
reactant | dicyclohexylcarbodiimide | 0.036 mol, 7.43 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-glycinamido-N-[1,2-bis(4-fluorophenyl)-1-methylethyl]acetamide | 3.64 g | NCC(=O)NCC(=O)NC(CC1=CC=C(C=C1)F)(C)C1=CC=C(C=C1)F | C19H21F2N3O2
